US04507496
806 g (4 mols) of 1,1,5-trichloro-3,3-dimethyl-1-pentene are heated under reflux for 6 hours together with 360 g (4.4 mols) of anhydrous sodium acetate in 1 liter of dimethylformamide. When the reaction mixture has cooled down to about 100°, 1.6 liters (8 mols) of 30% sodium methylate solution in methanol are added dropwise, and the mixture is heated under reflux for a further 4 hours. The cold solution is poured into water, and the mixture is repeatedly extracted with methylene chloride. When the solution has been dried and the solvent driven off, 654 g of product remain which are fractionated over a column. 522 g (3.56 mols, 89%) of 2-chloromethylene-3,3-dimethyltetrahydrofuran are obtained with a boiling point of 84°-87°/20.

reactant | 1,1,5-trichloro-3,3-dimethyl-1-pentene | 4 mols, 806 g | ClC(=CC(CCCl)(C)C)Cl | C7H11Cl3
reactant | sodium acetate | 4.4 mols, 360 g | C(C)(=O)[O-].[Na+]
reactant | sodium methylate | 8 mols, 1.6 liters | C[O-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | methanol | CO | CH4O
product | 2-chloromethylene-3,3-dimethyltetrahydrofuran | 3.56 mols, 522 g, 89% | ClC=C1OCCC1(C)C | C7H11ClO
